USH0001992H1
Dry hydrogen chloride was bubbled through a −20° C. solution of N-[4-(4-bromophenoxy)benzenesulfonyl]-N-(pyridin-3-yl)methyl-D-valine t-butyl ester (920 mg, 1.6 mol) in 20 mL of dichloromethane for 10 min, and the reaction was sealed and stirred at room temperature overnight. The reaction was vented, nitrogen was bubbled through the solution for 20 min, and the solution was concentrated to give N-[4-(4-bromophenoxy)benzenesulfonyl]-N-(pyridin-3-yl)methyl-D-valine hydrochloride that was used without further purification in the next step. The above acid was dissolved in 8 mL of dichloromethane, treated with O-t-butyl hydroxylamine hydrochloride (600 mg, 4.8 mol), N-methylmorpholine (0.92 mL, 8.3 mol), and EDC (613 mg, 3.2 mol), and stirred at room temperature overnight. The reaction was partitioned between water and dichloromethane, and the organic phase was washed with brine, dried over MgSO4, and concentrated. The residue was purified by chromatography on silica, eluting with 5% methanol in dichloromethane, to give 750 mg (79%) of 2(R)-N-(tert-butoxy)-2-[4-(4-bromophenoxy)benzenesulfonyl][(pyridin-3-yl)methyl]amino-3-methylbutanamide as a clear oil.

reactant | hydrogen chloride | Cl | ClH
reactant | N-[4-(4-bromophenoxy)benzenesulfonyl]-N-(pyridin-3-yl)methyl-D-valine t-butyl ester | 1.6 mol, 920 mg | C(C)(C)(C)OC([C@H](N(CC=1C=NC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Br)C(C)C)=O | C27H31BrN2O5S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-[4-(4-bromophenoxy)benzenesulfonyl]-N-(pyridin-3-yl)methyl-D-valine hydrochloride | Cl.BrC1=CC=C(OC2=CC=C(C=C2)S(=O)(=O)N([C@H](C(C)C)C(=O)O)CC=2C=NC=CC2)C=C1 | InChI=1S/C23H23BrN2O5S.ClH/c1-16(2)22(23(27)28)26(15-17-4-3-13-25-14-17)32(29,30)21-11-9-20(10-12-21)31-19-7-5-18(24)6-8-19;/h3-14,16,22H,15H2,1-2H3,(H,27,28);1H/t22-;/m1./s1
